US04629736
485 mg of the compound obtained as above was mixed with 10 ml of methylenechloride. 375 mg of β-alanyl-L-phenylalanine benzyl ester TFA salt and 0.11 ml of TEA and 175 mg of DCC were added successively to the mixture under ice-cooling. After 30 minutes, ice-bath was removed and the mixture was stirred overnight. Precipitates formed were removed by filtration, the filtrate was washed with water, dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue thus formed was subjected to silicangel column chromatography and eluted with methanol:chloroform (5:95 by v/v ratio) to provide 730 mg of N-[3-decanamidohexanoyloxy)octadecanoyl]-β-alanyl-L-phenylalanine benzyl ester.

reactant | β-alanyl-L-phenylalanine benzyl ester TFA salt | 375 mg | OC(=O)C(F)(F)F.C(C1=CC=CC=C1)OC([C@@H](NC(CCN)=O)CC1=CC=CC=C1)=O
reactant | DCC | 175 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylenechloride | 10 ml | C(Cl)Cl | CH2Cl2
product | β-alanyl-L-phenylalanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(CCN)=O)CC1=CC=CC=C1)=O | C19H22N2O3
